US07098212B2
1-[4-(4-Fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-2-hydroxy-ethanone
To a solution of glycolic acid (0.70 g, 9.2 mmol), 4-dimethylaminopyridine (catalytic) and pyridine (1.52 mL, 18.6 mmol) in dry dichloromethane (20 mL) was added trimethylsilylchloride (2.39 mL, 2.05 mmol) dropwise. The reaction was stirred at ambient temperature for 4 hours. The reaction was then cooled to 0° C. and catalytic dimethylformamide (3 drops) was added followed by addition of oxalyl chloride. The reaction was stirred at 0° C. for one hour and then 30 minutes at ambient temperature. The reaction was cooled back to 0° C. and (3R)-1-(4-fluoro-benzyl)-3-methyl-piperazine (2.11 g, 10.12 mmol) was added as a solution in pyridine (2.45 mL, 30.4 mmol). The reaction was allowed to warm to ambient temperature and stirred for 2 hours. The reaction was neutralized with 1N hydrochloric acid and extracted with dichloromethane (2×). The organic layers were combined, dried over magnesium sulfate, filtered and concentrated in vacuo. Chromatography on silica gel gave the title compound (1.84 g).

reactant | glycolic acid | 9.2 mmol, 0.70 g | C(CO)(=O)O | C2H4O3
reactant | pyridine | 18.6 mmol, 1.52 mL | N1=CC=CC=C1 | C5H5N
reactant | trimethylsilylchloride | 2.05 mmol, 2.39 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (3R)-1-(4-fluoro-benzyl)-3-methyl-piperazine | 10.12 mmol, 2.11 g | FC1=CC=C(CN2C[C@H](NCC2)C)C=C1 | C12H17FN2
reactant | pyridine | 30.4 mmol, 2.45 mL | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 1N | Cl | ClH
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
product | 1-[4-(4-Fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-2-hydroxy-ethanone | 1.84 g | FC1=CC=C(CN2C[C@H](N(CC2)C(CO)=O)C)C=C1 | C14H19FN2O2
